US07592477B2
Step a) Preparation of tert-butyl-4-bromobenzoate
To a stirred solution of 4-bromobenzoic acid (100 g, 0.5 mol) in dry CH2Cl2 (1.5 L) was added silver carbonate (275 g, 1 mol) and molecular sieves (4A, 100 g). The reaction mixture was cooled to 0° C. and then tert-butyl bromide (115 mL) was added dropwise over a period of 45 min. The reaction mixture was allowed to stir at Rt for 20 h and filtered off the solid. The filtrate was washed with an aqueous solution of NaHCO3 (10%), water, brine and dried. The solvent was removed under vacuum to the title compound (100 g, 79%) as colorless liquid.

reactant | 4-bromobenzoic acid | 0.5 mol, 100 g | BrC1=CC=C(C(=O)O)C=C1 | C7H5BrO2
reactant | tert-butyl bromide | 115 mL | C(C)(C)(C)Br | C4H9Br
solvent | CH2Cl2 | 1.5 L | C(Cl)Cl | CH2Cl2
catalyst | silver carbonate | 1 mol, 275 g | C([O-])([O-])=O.[Ag+2]
product | tert-butyl-4-bromobenzoate | C(C)(C)(C)OC(C1=CC=C(C=C1)Br)=O | C11H13BrO2
